US07842688B2
a) Benzyl 3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-[4-(tetrahydrofuran-3-yloxy)phenyl]piperidine-1-carboxylate
Analogously to Method D, 0.065 g of benzyl 4-(4-hydroxyphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate and 0.0288 g of tetrahydrofuran-3-yl toluene-4-sulphonate are reacted. The title compound is obtained as an orange oil. Rf=0.22 (2:1 EtOAc-heptane). Rt=5.25.

reactant | benzyl 4-(4-hydroxyphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | 0.065 g | OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1 | C32H38N2O6
reactant | tetrahydrofuran-3-yl toluene-4-sulphonate | 0.0288 g | C1(=CC=C(C=C1)S(=O)(=O)OC1COCC1)C | C11H14O4S
product | Benzyl 3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-[4-(tetrahydrofuran-3-yloxy)phenyl]piperidine-1-carboxylate | COCCCN1CCOC2=C1C=C(C=C2)COC2CN(CCC2C2=CC=C(C=C2)OC2COCC2)C(=O)OCC2=CC=CC=C2 | C36H44N2O7
